US07741315B2
Step 3: 2-(2-tert-Butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid
A mixture of methyl 2-(2-tert-butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate (0.49 g, 0.96 mmol) and lithium hydroxide monohydrate (0.12 g, 2.9 mmol) in a mixture of tetrahydrofuran (3 mL) and water (2 mL) was stirred at room temperature for one hour. The reaction mixture was concentrated under vacuum. The residue was partitioned between dichloromethane and dilute hydrochloric acid. The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to provide the title compound. This was used in the following step without further purification. ES MS M+1=495

reactant | methyl 2-(2-tert-butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | 0.96 mmol, 0.49 g | C(C)(C)(C)OC(CN1C(=C2CCN(C(C2=C(C1=O)OC)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)OC)=O | C24H26ClFN2O7
reactant | lithium hydroxide monohydrate | 2.9 mmol, 0.12 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 2-(2-tert-Butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid | C(C)(C)(C)OC(CN1C(=C2CCN(C(C2=C(C1=O)OC)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)O)=O | C23H24ClFN2O7
